US08754085B2
Step 1: rac-Ethyl 7-(8-ethyl-2,3-diphenyl-7,8-dihydropyrido[2,3-b]pyrazin-5(6H)-yl)heptanoate
To a solution of rac-8-ethyl-2,3-diphenyl-5,6,7,8-tetrahydropyrido[2,3-b]pyrazine (Intermediate HC)(13 mg, 0.041 mmol) in DCE (2 ml) was added ethyl 7-oxoheptanoate (24.84 mg, 0.144 mmol) followed by sodium triacetoxyborohydride (69.9 mg, 0.330 mmol). The reaction mixture was left to stir at room temperature under an atmosphere of nitrogen. Water (10 ml) was added and the resulting mixture was extracted with EtOAc (3×10 ml). The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo. The crude product was passed through a pre-conditioned Isolute SCX-2 SPE column loading with MeOH and eluting with 1M ammonia in MeOH (10 ml) to afford the title product;

reactant | rac-8-ethyl-2,3-diphenyl-5,6,7,8-tetrahydropyrido[2,3-b]pyrazine | 0.041 mmol, 13 mg | C(C)C1CCNC2=NC(=C(N=C21)C2=CC=CC=C2)C2=CC=CC=C2 | C21H21N3
reactant | ethyl 7-oxoheptanoate | 0.144 mmol, 24.84 mg | O=CCCCCCC(=O)OCC | C9H16O3
reactant | sodium triacetoxyborohydride | 0.330 mmol, 69.9 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Water | 10 ml | O | H2O
solvent | DCE | 2 ml | ClCCCl | C2H4Cl2
product | rac-Ethyl 7-(8-ethyl-2,3-diphenyl-7,8-dihydropyrido[2,3-b]pyrazin-5(6H)-yl)heptanoate | C(C)C1CCN(C2=NC(=C(N=C21)C2=CC=CC=C2)C2=CC=CC=C2)CCCCCCC(=O)OCC | C30H37N3O2
